US04826866
5-Methyl-3-[(2-methoxyphenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester
A suspension of 10.0 g (0.0507 mole) of 4-(2-methoxyphenyl)-3-thiosemicarbazide and 8.35 g (0.0507 mole) of ethyl 2-chloroacetoacetate in 150 mL of absolute ethanol was stirred for ~16 hr at room temperature. Alcoholic hydrogen chloride (2N, 50 mL) was added, the mixture heated at reflux for 1.0 hr, and the solution filtered while hot to remove precipitated sulfur. The filtrate was evaporated under reduced pressure, and the residue dissolved in hot ethanol, treated with charcoal and filtered through Celite®. The solution deposited 10.0 g of product, mp 162°-172° C. A similar recrystallization from absolute ethanol left 8.1 g, mp 155°-175° C. This product was dissolved in absolute ethanol, treated with charcoal, and filtered through Celite® 3 times. The filtrate deposited 4.3 g of product while standing for ~16 hr, mp 155.5°-159° C. which was a mixture of free base and hydrochloride salt. This last filtrate was left open to the atmosphere, and after approximately 50% of the solvent had evaporated, a solid precipitated and was collected by filtration: 1.4 g, mp 184°-191° C.

reactant | 4-(2-methoxyphenyl)-3-thiosemicarbazide | 0.0507 mole, 10.0 g | COC1=C(C=CC=C1)NC(NN)=S | C8H11N3OS
reactant | ethyl 2-chloroacetoacetate | 0.0507 mole, 8.35 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 50 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 5-Methyl-3-[(2-methoxyphenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester | CC1=C(C(=NN1)NC1=C(C=CC=C1)OC)C(=O)OCC | C14H17N3O3
